US04996355
Preparation of 4-Chloro-2,5-difluorobenzoic Acid
A 3.6 liter aqueous solution containing 500 g (5.5 mole) of potassium hypochlorite and 115 g potassium hydroxide, was taken in a 5 liter, 3-necked round-bottomed flask equipped with a Trubore stirrer, a thermometer, an addition funnel and a water condenser. 228.5 g (1.2 mole) of 4'-chloro-2',5'-difluoroacetophenone was dissolved in 550 ml of chloride and the solution was slowly added to the flask via the addition funnel. The temperature was not allowed to exceed 40° C. After the addition was complete, the heterogeneous mixture was stirred vigorously at reflux (40° C.) for 18 hours.

reactant | potassium hypochlorite | 5.5 mole, 500 g | Cl[O-].[K+]
reactant | potassium hydroxide | 115 g | [OH-].[K+]
reactant | 4'-chloro-2',5'-difluoroacetophenone | 1.2 mole, 228.5 g | ClC1=CC(=C(C=C1F)C(C)=O)F | C8H5ClF2O
solvent | chloride | 550 ml | [Cl-]
product | 4-Chloro-2,5-difluorobenzoic Acid | ClC1=CC(=C(C(=O)O)C=C1F)F | C7H3ClF2O2
